US06730668B2
Preparation of 2-(4-fluorophenyl)-6-methoxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (49):
A solution of 2-(4-fluorophenyl)-1-[4-methoxy-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)pyrazolidine-1-yl]-ethanone, 48, (2.04 g, 5.22 mmol) in 1:1 dimethylformamide/tetrahydrofuran (30 mL) is added dropwise to a 0° C. suspension of sodium hydride (230 mg of a 60% dispersion in mineral oil, 5.75 mmol) in dimethylformamide (60 mL). After 2 hours at 0° C., the bright red solution is quenched by slow addition of a saturated aqueous solution of ammonium chloride (5 mL). The cold bath is removed, and the solution allowed to warm to room temperature. The reaction mixture is concentrated in vacuo and the resultant residue diluted with ethyl acetate (175 mL). The mixture is washed with a saturated aqueous solution of ammonium chloride (150 mL). The aqueous layer is extracted with ethyl acetate (4×75 mL). The combined organic layers are dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material is purified over silica gel (100% ethyl acetate to 5% to 10% to 20% methyl alcohol/ethyl acetate) to afford 1.1 g (57% yield) of the desired product as an orange oil.

reactant | 2-(4-fluorophenyl)-1-[4-methoxy-2-(2-methylsulfanyl-pyrimidine-4-carbonyl)pyrazolidine-1-yl]-ethanone | FC1=CC=C(C=C1)CC(=O)N1N(CC(C1)OC)C(=O)C1=NC(=NC=C1)SC | C18H19FN4O3S
reactant | dimethylformamide tetrahydrofuran | 30 mL | CN(C=O)C.O1CCCC1
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenyl)-6-methoxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 1.1 g, 57% yield | FC1=CC=C(C=C1)C1=C(N2N(CC(C2)OC)C1=O)C1=NC(=NC=C1)SC | C18H17FN4O2S
